US06958336B2
A. 3-[(2-Aminothiazol-5-yl)thio]benzoic acid methyl ester
A 4.37 M solution of sodium methoxide in methanol (10 mL, 43.7 mmol) was added dropwise to a stirred suspension of 2-amino-5-bromothiazole hydrochloride (2.16 g, 10 mmol) and 3-carboxythiophenol (1.85 g, 12 mmol) in methanol (75 mL) at 0-5° C. The solution was allowed to warm to rt. for 2 h and a 4 M solution of hydrogen chloride in dioxane (15 mL, 60 mmol) was added. The suspension was stirred at rt. overnight and concentrated. The crude residue was diluted with satd. aqueous sodium bicarbonate solution (50 mL). The precipitated solid was filtered and washed with water (20 mL, 5×) and ether (20 mL, 5×). The solid was filtered and dried in vacuo at 60° C. to obtain the titled compound (1.97 g, 75%). B. 3-[[2-[[(1,1-Dimethylethoxy)carbonyl]amino]thiazol-5-yl]thio]benzoic acid methyl ester

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-amino-5-bromothiazole hydrochloride | 10 mmol, 2.16 g | Cl.NC=1SC(=CN1)Br
reactant | 3-carboxythiophenol | 12 mmol, 1.85 g | C(=O)(O)C=1C=C(C=CC1)S | C7H6O2S
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 60 mmol, 15 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 75 mL | CO | CH4O
solvent | methanol | 43.7 mmol, 10 mL | CO | CH4O
product | 3-[(2-Aminothiazol-5-yl)thio]benzoic acid methyl ester | 1.97 g, 75% | COC(C1=CC(=CC=C1)SC1=CN=C(S1)N)=O | C11H10N2O2S2
